US07759379B2
3-[1-(1-Cyclohexylazetidin-3-yl)-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl]-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione
prepared as described for example 96 by reaction of 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione with 1-cyclohexylazetidin-3-yl methanesulphonate oxalate

reactant | 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | CC1(CNC2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O)C | C21H24N4O2
reactant | 1-cyclohexylazetidin-3-yl methanesulphonate oxalate | C(C(=O)O)(=O)O.CS(=O)(=O)OC1CN(C1)C1CCCCC1
product | 3-[1-(1-Cyclohexylazetidin-3-yl)-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl]-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | C1(CCCCC1)N1CC(C1)N1CC(C2=CC=C(C=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O)(C)C | C30H39N5O2
